US06429314B1
The obtained 1-(1-cyano-1-trimethylsilyloxyethyl)adamantane was added to 45 ml of tetrahydrofuran and 17 ml of 2N-hydrochloric acid, and the resultant mixture was refluxed with stirring for 3 hours. After cooling the reaction mixture and adding an aqueous solution (water: 170 ml) of potassium hydrogencarbonate (11 g) thereto, the resultant mixture was extracted with ether, and the obtained organic layer was concentrated to give 24.1 g of 1-(1-cyano-1-hydroxyethyl)adamantane (white solid substance).

reactant | 1-(1-cyano-1-trimethylsilyloxyethyl)adamantane | C(#N)C(C)(O[Si](C)(C)C)C12CC3CC(CC(C1)C3)C2 | C16H27NOSi
reactant | hydrochloric acid | Cl | ClH
reactant | potassium hydrogencarbonate | 170 ml, 11 g | C(O)([O-])=O.[K+]
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 1-(1-cyano-1-hydroxyethyl)adamantane | 24.1 g | C(#N)C(C)(O)C12CC3CC(CC(C1)C3)C2 | C13H19NO
